US08404709B2
3-Chloro-4-formylbenzonitrile
The crude 3-chloro-4-[2-(dimethylamino)vinyl]benzonitrile obtained in this way is taken up in 500 ml of THF/water (1:1), and 77.6 g (362.9 mmol) of sodium periodate are added. The mixture is stirred at room temperature for 18 h, and then the precipitate which has separated out is removed by filtration. The filtrate is mixed with saturated sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic phases are dried with sodium sulfate, and the solvent is removed in a rotary evaporator. The crude product is purified by column chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate 7:3). 3.0 g (15% of theory) of the title compound are obtained.

reactant | 3-chloro-4-[2-(dimethylamino)vinyl]benzonitrile | ClC=1C=C(C#N)C=CC1C=CN(C)C | C11H11ClN2
reactant | sodium periodate | 362.9 mmol, 77.6 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF water | 500 ml | C1CCOC1.O
product | 3-Chloro-4-formylbenzonitrile | ClC=1C=C(C#N)C=CC1C=O | C8H4ClNO
